US04182758
A mixture of 3-(N-hydroxyamino)propylphosphonic acid (1.64 g), bis(trimethylsilyl)acetamide (10.0 g) and dichloromethane (32 ml) was stirred for 3 hours at ambient temperature. To this mixture was added dropwise a solution of 2-acetoxy-4-chlorobenzoyl chloride (2.3 g) in dichloromethane (10 ml) with stirring under ice-cooling. The reaction mixture was stirred at the same temperature for 30 minutes and at ambient temperature for 1.5 hours. The mixture was concentrated under reduced pressure to give a residue, which was dissolved in ethyl acetate (80ml). The solution was washed with cold 5% hydrochloride acid (30 ml). The washings was extracted three times with ethyl acetate (30 ml). The combined ethyl acetate layer was washed with saturated aqueous sodium chloride solution (10 ml), dried over magnesium sulfate and evaporated to dryness to give a crude powder (4.35 g) of 3-[N-(2-acetoxy-4-chloro benzoyl)-N-hydroxyamino]propylphosphonic acid. This crude powder (1 g) was dissolved in a mixture of ethanol (30 ml) and conc. aqueous ammonia (8 ml). The solution was stirred at ambient temperature for 4 hours and then concentrated under reduced pressure to give a residue, which was dissolved in a small volume of ethanol. To the solution was added ether to give precipitates, which were separated by filtration and dried to give powdery monoammonium salt of 3-[N-(4-chloro-2-hydroxy benzoyl)-N-hydroxyamino]propylphosphonic acid (430 mg).

reactant | 3-(N-hydroxyamino)propylphosphonic acid | 1.64 g | ONCCCP(O)(O)=O | C3H10NO4P
reactant | bis(trimethylsilyl)acetamide | 10.0 g | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | 2-acetoxy-4-chlorobenzoyl chloride | 2.3 g | C(C)(=O)OC1=C(C(=O)Cl)C=CC(=C1)Cl | C9H6Cl2O3
reactant | ether | CCOCC | C4H10O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 80ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ammonia | 8 ml | N | H3N
solvent | dichloromethane | 32 ml | ClCCl | CH2Cl2
product | 3-[N-(4-chloro-2-hydroxy benzoyl)-N-hydroxyamino]propylphosphonic acid | 430 mg | ClC1=CC(=C(C(=O)N(O)CCCP(O)(O)=O)C=C1)O | C10H13ClNO6P
